US08703758B2
I) N-{3-[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]-1-methylpropyl}acetamide
A solution of N-[1-methyl-3-(piperidin-4-yl)propyl]acetamide hydrochloride (500 mg), 2-chloro-1,3-benzoxazol-6-ol (361 mg) and N,N-diisopropylethylamine (826 mg) in DMF (15 mL) was stirred at 100° C. for 10 hr. The reaction mixture was allowed to cool, and the solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate/THF mixed solvent (10/1), and the solution was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (543 mg).

reactant | N-[1-methyl-3-(piperidin-4-yl)propyl]acetamide hydrochloride | 500 mg | Cl.CC(CCC1CCNCC1)NC(C)=O
reactant | 2-chloro-1,3-benzoxazol-6-ol | 361 mg | ClC=1OC2=C(N1)C=CC(=C2)O | C7H4ClNO2
reactant | N,N-diisopropylethylamine | 826 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-{3-[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]-1-methylpropyl}acetamide | 543 mg | OC1=CC2=C(N=C(O2)N2CCC(CC2)CCC(C)NC(C)=O)C=C1 | C18H25N3O3
